US03930837
3-methyl-5-nitro-isoquinoline (6 g), prepared according to the method of Example 5 hereinabove, was dissolved in concentrated hydrochloric acid (30 ml). The excess acid was then removed by means of a rotary evaporator, and the residue was digested with boiling ethanol (100 ml). The mixture was cooled and filtered, and the residue was dried in vacuo for several hours, to yield 6.9 g of 3-methyl-5-nitro-isoquinoline hydrochloride melting over a temperature range from 178° to 183°C.

reactant | 3-methyl-5-nitro-isoquinoline | 6 g | CC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C10H8N2O2
reactant | hydrochloric acid | 30 ml | Cl | ClH
product | 3-methyl-5-nitro-isoquinoline hydrochloride | 6.9 g | Cl.CC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | InChI=1S/C10H8N2O2.ClH/c1-7-5-9-8(6-11-7)3-2-4-10(9)12(13)14;/h2-6H,1H3;1H
